US06166006
A mixture of sodium methoxide (5.63 g), dimethyl carbonate (33 ml) and 7-(4-methylphenyl)-1-tetralone (4.93 g) was refluxed for 30 minutes. The reaction mixture was cooled to 0° C., and to the mixture was gradually added 3Nhydrochloricacid(80 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in THF (30 ml), and to the mixture was added sodium boron hydride (494 mg) at 0° C. and then was dropwise added methanol (3 ml) for 30 minutes. The reaction mixture was stirred at 0° C. for 4 hours, and to the mixture was added water (500 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (20 ml), and to the mixture was added IN sodium hydroxide (20 ml). The mixture was refluxed for 4 hours, cooled, acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in Diglyme (20 ml), and to the mixture was added concentrated hydrochloric acid (4 ml). The mixture was stirred at 100° C. for 2 hours, and to the mixture was added water (500 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, and concentrated under reduced pressure. The residue was dissolved in 0.5N sodium hydroxide (400 ml), and the mixture was washed with diethylether. The aqueous layer was separated and acidified with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropylether to give 7-(4-methyl-phenyl)-3,4-dihydronaphthalene-2-carboxylic acid (1.96 g) as pale brown crystals.

reactant | sodium methoxide | 5.63 g | C[O-].[Na+]
reactant | dimethyl carbonate | 33 ml | C(OC)(OC)=O | C3H6O3
reactant | 7-(4-methylphenyl)-1-tetralone | 4.93 g | CC1=CC=C(C=C1)C1=CC=C2CCCC(C2=C1)=O | C17H16O
product | 7-(4-methyl-phenyl)-3,4-dihydronaphthalene-2-carboxylic acid | 1.96 g | CC1=CC=C(C=C1)C1=CC=C2CCC(=CC2=C1)C(=O)O | C18H16O2
